US05733912
12d. 7a-(6-fluoro-3-pyridinyl)-hexahydro-1H-pyrrolizine
2-Fluoro-5-iodopyridine (200 μL, 0.90 mmol) was dissolved in Et2O and cooled to -78° C. A solution of 2.5M t-BuLi (1.2 mL, 1.98 mmol) in pentane was added, and the reaction was stirred for 2 minutes. 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate (375 mg, 1.80 mmol) was added, and the reaction mixture was allowed to stir for 10 minutes at -78° C. then allowed to warm to -20° C. The cold bath was removed, 2N HCl was added, and the mixture was extracted with Et2O. The phases were separated, and the aqueous phase was basified with 15% NaOH and extracted with CH2Cl2 (2×). The CH2 Cl2 fractions were combined, dried (MgSO4) and concentrated, and the residue was chromatographed (silica gel; CHCl3 /MeOH, 98:2) to afford a clear oil (75 mg, 40%). 1H NMR (CDCl3, 300 MHz) δ1.58-1.73 (m, 2H), 1.79-2.05 (m, 6H), 2.64-2.73 (m, 2H), 3.12-3.19 (m, 2H), 6.82 (dd, J=8.4, 2.7 Hz, 1H), 7.90 (m, 1H), 8.30 (dd, J=1.4, 0.7 Hz, 1H); MS (CI/NH3) m/z: 207 (M+H)+.

reactant | 2-Fluoro-5-iodopyridine | 0.90 mmol, 200 μL | FC1=NC=C(C=C1)I | C5H3FIN
reactant | t-BuLi | 1.98 mmol, 2.5M, 1.2 mL | [Li]C(C)(C)C
reactant | 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate | 1.80 mmol, 375 mg | Cl(=O)(=O)(=O)[O-].C1CC[N+]=2CCCC12
solvent | Et2O | CCOCC | C4H10O
solvent | pentane | CCCCC | C5H12
product | 7a-(6-fluoro-3-pyridinyl)-hexahydro-1H-pyrrolizine | 75 mg, 40% | FC1=CC=C(C=N1)C12CCCN2CCC1 | C12H15FN2
